US05843956
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (1.0 g, 0.0043 mol), DMSO (3 mL) and 2-aminomethylfuran (0.8 mL, 0.009 mol) was heated at 90° for 3 hours. The reaction mixture was then partitioned between CH2Cl2 (50 mL) and water (50 mL). The aqueous layer was separated and then extracted with CH2Cl2 (25 mL) and then the CH2Cl2 layers were combined, washed with water dried over Na2SO4 and reduced to a volume of about 3-5 mL. The solution was passed through a silica gel column eluting with ethyl acetate to afford the product which was recrystallized from ether/CH2Cl2 to afford 430 mg of 1-ethyl-N-(2-furanylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as a yellow solid, m.p. 156°-158° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.0043 mol, 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | 2-aminomethylfuran | 0.009 mol, 0.8 mL | NCC=1OC=CC1 | C5H7NO
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-ethyl-N-(2-furanylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 430 mg | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC=2OC=CC2 | C17H16N4O
